US04808589
Sodium (5.0 g) was dissolved in ethanol (300 ml) and 5-methyl-4-(mercaptomethyl)imidazole (17 g) added, followed by a solution of 4-bromobutyronitrile (16 g) in ethanol (50 ml). The mixture was stirred under reflux for 45 minutes, cooled, filtered and the filtrate evaporated to dryness. The residue was taken up in water and extracted with ethyl acetate. The extract was dried (MgSO4) and solvent removed. Recrystallisation of the product from ethanol-ether gave 4-(5-methyl-4-imidazolylmethylthio)butyronitrile as its hydrochloride salt (12 g).

reactant | Sodium | 5.0 g | [Na] | Na
reactant | 5-methyl-4-(mercaptomethyl)imidazole | 17 g | CC1=C(N=CN1)CS | C5H8N2S
reactant | 4-bromobutyronitrile | 16 g | BrCCCC#N | C4H6BrN
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(5-methyl-4-imidazolylmethylthio)butyronitrile | CC1=C(N=CN1)CSCCCC#N | C9H13N3S
